US08912227B1
Into a 50-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed [1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrrol-2-yl]methanol and (1-(4-chlorophenyl)-3-(perfluoroethyl)-1H-pyrrol-2-yl)methanol (200 mg, 0.73 mmol, 1.00 equiv), ethyl 3-(3,5-difluoro-4-hydroxyphenyl)propanoate (211 mg, 0.92 mmol, 1.20 equiv), ADDP (482 mg, 1.91 mmol, 2.50 equiv), PBu3 (232 mg, 1.15 mmol, 1.50 equiv) and toluene (10 mL). The resulting solution was stirred overnight at 60° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was then concentrated under vacuum. The resulting solution was diluted with diethyl ether (10 mL). The solids were filtered out and the resulting mixture was concentrated under vacuum. The resulting residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10) to yield ethyl 3-(4-[[1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrrol-2-yl]methoxy]-3,5-difluorophenyl propanoate and 1-(4-chlorophenyl)-2-(2,6-difluoro-4-propylphenoxy)methyl)-3-(perfluoroethyl)-1H-pyrrole as yellow oil.

reactant | [1-(4-chlorophenyl)-3-(trifluoromethyl)-1H-pyrrol-2-yl]methanol | ClC1=CC=C(C=C1)N1C(=C(C=C1)C(F)(F)F)CO | C12H9ClF3NO
reactant | (1-(4-chlorophenyl)-3-(perfluoroethyl)-1H-pyrrol-2-yl)methanol | 0.73 mmol, 200 mg, 1.00 equiv | ClC1=CC=C(C=C1)N1C(=C(C=C1)C(C(F)(F)F)(F)F)CO | C13H9ClF5NO
reactant | ethyl 3-(3,5-difluoro-4-hydroxyphenyl)propanoate | 0.92 mmol, 211 mg, 1.20 equiv | FC=1C=C(C=C(C1O)F)CCC(=O)OCC | C11H12F2O3
reactant | ADDP | 1.91 mmol, 482 mg, 2.50 equiv | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | PBu3 | 1.15 mmol, 232 mg, 1.50 equiv | P(CCCC)(CCCC)CCCC | C12H27P
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(perfluoroethyl)-1H-pyrrole | FC(C(F)(F)F)(C1=CNC=C1)F | C6H4F5N
